US08278318B2
Step 3: 1-benzyl 3-ethyl 3-(2-oxoethyl)piperidine-1,3-dicarboxylate
Ozone was passed through a solution of 1-benzyl 3-ethyl 3-(3-methylbut-2-en-1-yl)piperidine-1,3-dicarboxylate (35.2 g, 0.0979 mol) in methylene chloride (800 mL) at −78° C. until the color of the solution turned blue. The reaction mixture was then flushed with nitrogen until the blue color dissipated. Dimethylsulfide (Aldrich, cat #: 274380) (14 mL, 0.19 mol) and triethylamine (26.5 mL, 0.19 mol) were added and the mixture was stirred at ambient temperature overnight. The volatile solvent were removed under reduced pressure and purified directly by flash chromatography on a silica gel column with 20% ethyl acetate in hexanes to afford the desired product in quantitative yield. LC/MS 334.2 (M+H)+.

reactant | Ozone | O=[O+][O-] | O3
reactant | 1-benzyl 3-ethyl 3-(3-methylbut-2-en-1-yl)piperidine-1,3-dicarboxylate | 0.0979 mol, 35.2 g | CC(=CCC1(CN(CCC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC)C | C21H29NO4
reactant | Dimethylsulfide | 0.19 mol, 14 mL | CSC | C2H6S
reactant | triethylamine | 0.19 mol, 26.5 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl 3-ethyl 3-(2-oxoethyl)piperidine-1,3-dicarboxylate | quantitative yield | O=CCC1(CN(CCC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C18H23NO5
